### PR TITLE
Add basic LLVM semantics

### PR DESCRIPTION
**Pull request by tobiasgrosser**
We introduce a type `PoisonOr` which adjoins poison to an underlying type and use this to define a new type `LLVM.Int`. This encoding is directly taken from Lean-MLIR, and the LLVM semantics were just cleaned up a bit. The main changes are that we use explicit booleans instead of a flags variable. We also eliminated multiple levels of function definitions and `simp` lemmas. I am not yet 100% clear that this encoding is preferable to a native encoding as an inductive. By merging the existing design, we can gather data on how well this encoding works in reality.

### CODE REVIEW

File: Veir/Data/LLVM/PoisonOr/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,158 @@
+module
```
Comment (ineol) [inline Veir/Data/LLVM/PoisonOr/Basic.lean:1]: Should we acknowledge it was taken from Lean-MLIR?

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,196 @@
...
+  value (x' ^^^ y')
+
+instance {w : Nat} : XorOp (Int w) where
+  xor := xor
+
+def cast {w₁ w₂ : Nat} (x : Int w₁) (h : w₁ = w₂) : Int w₂ :=
+  match x with
+  | value v => value (v.cast h)
+  | poison => poison
+
```
Comment (ineol) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: Double new line?

Comment (tobiasgrosser) [reply Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: Addressed.

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 1 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean:1]: Right. I added this into the PR commit message. I also added documentation.

**Comment by tobiasgrosser** [comment]
This is now ready to review. I would like to eventually have more exhaustive test coverage, but this should probably come in another PR.

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,414 @@
...
+LLVM's integer type is a bitvector adjoin `poison` value.
+
+The `@[expose]` is required as otherwise Lean yields the following error:
+
+  Compilation failed, locally inferred compilation type differs from type that
+  would be inferred in other modules. Some of the following definitions may need
+  to be `@[expose]`d to fix this mismatch: Int ↦ 1
+  This is a current compiler limitation for `module`s that may be lifted in the
+  future.
+
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
```
I am not sure I would include this here? At least it should not be in a documentation comment, and I would not include Lean's error message (which might change without us being able to check it).

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,414 @@
+module
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: Should this file be named differently? `PoisonOr` is split in another file right?

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,414 @@
...
+
+-/
+@[expose]
+def Int w := PoisonOr <| BitVec w
+
+instance {w : Nat} : Inhabited (Int w) := ⟨poison⟩
+instance {w : Nat} : Repr (Int w) where
+  reprPrec x _ := match x with
+    | .poison => "poison"
+    | .value v => s!"value {v}"
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: `repr` should likely print something like `.poison` or `.value v`?
My understanding is that `Repr` should easily be translated back to Lean?

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,414 @@
...
+  toString x := match x with
+    | .poison => "poison"
+    | .value v => s!"value {v}"
+
+namespace Int
+
+/--
+The ‘add’ instruction returns the sum of its two operands.
+
+The value produced is the integer sum of the two operands.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,414 @@
...
+
+  value (x' - y')
+
+instance {w : Nat} : Sub (Int w) where
+  sub := sub
+
+/--
+The ‘mul’ instruction returns the product of its two operands.
+
+The value produced is the integer product of the two operands.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
```
redundant

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,414 @@
...
+
+  value (x' * y')
+
+instance {w : Nat} : Mul (Int w) where
+  mul := mul
+
+/--
+The ‘udiv’ instruction returns the quotient of its two operands.
+
+The value produced is the unsigned integer quotient of the two operands.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
The ‘udiv’ instruction returns the unsigned integer quotient of its two operands.
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,414 @@
...
+def udiv {w : Nat} (x y : Int w) (exact : Bool := false) : Int w := do
+  let x' ← x
+  let y' ← y
+
+  if exact ∧ x'.umod y' ≠ 0 then
+    poison
+  if y' = 0 then
+    poison
+
+  value (x' / y')
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: What is the plan towards representing unsigned division with UB?
Should this return an `Option (Int w)` instead to represent UB in this context?

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,414 @@
...
+  if y' == 0 || (w != 1 && x' == (BitVec.intMin w) && y' == -1) then
+    poison
+
+  if exact ∧ x'.smod y' ≠ 0 then
+    poison
+
+  if y' = 0 then
+    poison
+
+  value (x' / y')
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: This is the same function used for `udiv`. Can you add a test to ensure they are actually the right ones, and fix the function?

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,414 @@
...
+
+/--
+The ‘urem’ instruction returns the remainder from the unsigned division of its
+two arguments.
+
+This instruction returns the unsigned integer remainder of a division. This
+instruction always performs an unsigned division to get the remainder.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
The ‘urem’ instruction returns the unsigned integer remainder from the
unsigned division of its two arguments. This instruction always performs
an unsigned division to get the remainder.
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,414 @@
...
+
+  value (x' % y')
+
+instance {w : Nat} : Mod (Int w) where
+  mod := urem
+
+/--
+The ‘srem’ instruction returns the remainder from the signed division of its two
+operands. This instruction can also take vector versions of the values in which
+case the elements must be integers.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
The ‘srem’ instruction returns the remainder from the signed division of its two
operands.
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,414 @@
...
+  let y' ← y
+
+  if y' == 0 || (w != 1 && x' == (BitVec.intMin w) && y' == -1) then
+    poison
+
+  value (x'.srem y')
+
+/--
+The ‘shl’ instruction returns the first operand shifted to the left a specified
+number of bits.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
The ‘shl’ instruction returns the first operand shifted to the left by a specified
number of bits.
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,414 @@
...
+The value produced is the integer sum of the two operands.
+
+If the sum has unsigned overflow, the result returned is the mathematical result
+modulo 2^n, where n is the bit width of the result.
+
+Because LLVM integers use a two’s complement representation, this instruction is
+appropriate for both signed and unsigned integers.
+
+`nuw` and `nsw` stand for “No Unsigned Wrap” and “No Signed Wrap”, respectively. If
+the `nuw` and/or `nsw` keywords are present, the result value of the add is a poison
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
the `nuw` and/or `nsw` arguments are true, the result value of the add is a poison
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,414 @@
...
+The value produced is the integer difference of the two operands.
+
+If the difference has unsigned overflow, the result returned is the mathematical
+result modulo 2^n, where n is the bit width of the result.
+
+Because LLVM integers use a two’s complement representation, this instruction is
+appropriate for both signed and unsigned integers.
+
+`nuw` and `nsw` stand for “No Unsigned Wrap” and “No Signed Wrap”, respectively. If
+the `nuw` and/or `nsw` keywords are present, the result value of the sub is a poison
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
the `nuw` and/or `nsw` arguments are true, the result value of the sub is a poison
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,414 @@
...
+is the mathematical result modulo 2^n, where n is the bit width of the result.
+
+Because LLVM integers use a two’s complement representation, and the result is
+the same width as the operands, this instruction returns the correct result for
+both signed and unsigned integers. If a full product (e.g., i32 * i32 -> i64) is
+needed, the operands should be sign-extended or zero-extended as appropriate to
+the width of the full product.
+
+`nuw` and `nsw` stand for “No Unsigned Wrap” and “No Signed Wrap”, respectively. If
+the `nuw` and/or `nsw` keywords are present, the result value of the mul is a poison
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
the `nuw` and/or `nsw` arguments are true, the result value of the mul is a poison
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,414 @@
...
+The value produced is the unsigned integer quotient of the two operands.
+
+Note that unsigned integer division and signed integer division are distinct
+operations; for signed integer division, use ‘sdiv’.
+
+Division by zero is undefined behavior. For vectors, if any element of the
+divisor is zero, the operation has undefined behavior.
+
+If the `exact` keyword is present, the result value of the udiv is a poison value
+if `x` is not a multiple of `y` (as such, “((a udiv exact b) mul b) == a”).
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
If the `exact` argument is true, the result value of the udiv is a poison value
if `x` is not a multiple of `y` (as such, “((a udiv exact b) mul b) == a”).
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,414 @@
...
+Note that signed integer division and unsigned integer division are distinct
+operations; for unsigned integer division, use ‘udiv’.
+
+Division by zero is undefined behavior. For vectors, if any element of the
+divisor is zero, the operation has undefined behavior. Overflow also leads to
+undefined behavior; this is a rare case, but can occur, for example, by doing a
+32-bit division of -2147483648 by -1.
+
+If the `exact` keyword is present, the result value of the sdiv is a poison value
+if the result would be rounded.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
If the `exact` argument is true, the result value of the sdiv is a poison value
if the result would be rounded.
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,414 @@
...
+to the right a specified number of bits with zero fill.
+
+This instruction always performs a logical shift right operation. The most
+significant bits of the result will be filled with zero bits after the shift. If
+`y` is (statically or dynamically) equal to or larger than the number of bits in
+`x`, this instruction returns a poison value. If the arguments are vectors, each
+vector element of `x` is shifted by the corresponding shift amount in `y`.
+
+If the `exact` keyword is present, the result value of the lshr is a poison value
+if any of the bits shifted out are non-zero.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
If the `exact` argument is true, the result value of the lshr is a poison value
if any of the bits shifted out are non-zero.
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,414 @@
...
+shifted to the right a specified number of bits with sign extension.
+
+This instruction always performs an arithmetic shift right operation, The most
+significant bits of the result will be filled with the sign bit of `x`. If `y`
+is (statically or dynamically) equal to or larger than the number of bits in
+`x`, this instruction returns a poison value. If the arguments are vectors, each
+vector element of `x` is shifted by the corresponding shift amount in `y`.
+
+If the `exact` keyword is present, the result value of the ashr is a poison value
+if any of the bits shifted out are non-zero.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
If the `exact` argument is true, the result value of the ashr is a poison value
if any of the bits shifted out are non-zero.
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,414 @@
...
+    0   0   0
+    0   1   1
+    1   0   1
+    1   1   1
+
+`disjoint` means that for each bit, that bit is zero in at least one of the
+inputs. This allows the Or to be treated as an Add since no carry can occur from
+any bit. If the `disjoint` keyword is present, the result value of the or is a
+poison value if both inputs have a one in the same bit position. For vectors,
+only the element containing the bit is poison.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
any bit. If the `disjoint` argument is true, the result value of the or is a
poison value if both inputs have a one in the same bit position. For vectors,
```

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,414 @@
...
+
+  value (x' ||| y')
+
+instance {w : Nat} : OrOp (Int w) where
+  or := or
+
+/--
+The ‘xor’ instruction returns the bitwise logical exclusive or of its two
+operands. The xor is used to implement the “one’s complement” operation, which
+is the “~” operator in C.
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]:
```suggestion
The `xor` instruction returns the bitwise logical exclusive or of its two
operands. The xor is used to implement the "one's complement" operation, which
is the "~" operator in C.
```

Comment (math-fehr) [reply Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: To remain consistent

File: Veir/Data/LLVM/PoisonOr/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,158 @@
...
+@[simp]
+theorem ite_value_value {c : Prop} [Decidable c] {a b : α} :
+    (if c then value a else value b : no_index _) = value (if c then a else b) := by
+  split <;> rfl
+
+/-! ### Formatting & Priting instances -/
+instance [ToString α] : ToString (PoisonOr α) where
+  toString
+  | .poison  => "poison"
+  | .value a => "(value " ++ addParenHeuristic (toString a) ++ ")"
```
Comment (math-fehr) [inline Veir/Data/LLVM/PoisonOr/Basic.lean]: Why does this have parentheses around it here?
Also, should that same format be used in the LLVM version?

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,414 @@
...
+instance {w : Nat} : Inhabited (Int w) := ⟨poison⟩
+instance {w : Nat} : Repr (Int w) where
+  reprPrec x _ := match x with
+    | .poison => "poison"
+    | .value v => s!"value {v}"
+
+instance {w : Nat} : ToString (Int w) where
+  toString x := match x with
+    | .poison => "poison"
+    | .value v => s!"value {v}"
```
Comment (math-fehr) [inline Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: Should this format also be the same as the PoisonOr one?

File: Veir/Data/LLVM/PoisonOr/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,158 @@
...
+
+/-! ### Monad instance and lemmas -/
+instance : Monad PoisonOr where
+  pure := value
+  bind := fun a f => match a with
+    | poison  => poison
+    | value a => f a
+
+def bind₂ (a : PoisonOr α) (b : PoisonOr β) (f : α → β → PoisonOr γ) : PoisonOr γ :=
```
Comment (math-fehr) [inline Veir/Data/LLVM/PoisonOr/Basic.lean:80]: This should be marked `@[grind]`

File: Veir/Data/LLVM/PoisonOr/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,158 @@
...
+    (a? : PoisonOr α)
+    (poison : motive poison)
+    (value : (a : α) → motive (value a))
+    : motive a? :=
+  match a? with
+  | .poison => poison
+  | .value a => value a
+
+@[simp] theorem value_inj {a b : α} :
+    @Eq (no_index _) (value a) (value b) ↔ a = b := by
```
Comment (math-fehr) [inline Veir/Data/LLVM/PoisonOr/Basic.lean:48]: Maybe explain here and lower why we need `no_index`?
Unless this is common knowledge, but right now you are only explaining this later in the file.

File: Veir/Data/LLVM/PoisonOr/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,158 @@
...
+  pure_seq := by intros; rfl
+  bind_pure_comp := by intros; rfl
+  bind_map := by intros; rfl
+  pure_bind _ _ := value_bind
+  bind_assoc := by rintro _ _ _ (_|_) _ _ <;> rfl
+
+/-! ## isPoison & getValue-/
+
+/-- Returns whether the element is poison. -/
+def isPoison : PoisonOr α → Bool
```
Comment (math-fehr) [inline Veir/Data/LLVM/PoisonOr/Basic.lean:130]: This should be `@[grind]`, or at least `isPoison_poison` and `isPoison_value`.

File: Veir/Data/LLVM/PoisonOr/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,158 @@
...
+@[simp] theorem getValue_value [Inhabited α] : (value a).getValue = a := by rfl
+@[simp] theorem getValue_poison [Inhabited α] : (@poison α).getValue = default := by rfl
+
+@[simp] theorem mk_some (x : α) : { toOption := some x } = PoisonOr.value x := rfl
+@[simp] theorem mk_none : { toOption := none (α := α) } = PoisonOr.poison := rfl
+
+@[simp]
+theorem toOption_getSome : (PoisonOr.value x).toOption.getD y = x := rfl
+@[simp]
+theorem toOption_getNone : (PoisonOr.poison).toOption.getD y = y := rfl
```
Comment (math-fehr) [inline Veir/Data/LLVM/PoisonOr/Basic.lean]: These should all be annotated with `grind =`

File: Veir/Interpreter.lean [hunk 29]
```diff
@@ -87,12 +88,105 @@ def interpretOp' (ctx : IRContext) (opPtr : OperationPtr) (operands: Array Runti
...
   | .arith_addi => do
     let #[.int bw lhs, .int bw' rhs] := operands | none
-    if h: bw' ≠ bw then none else
-    let rhs := rhs.cast (by simp at h; exact h)
-    return (#[.int bw (lhs + rhs)], .continue)
+    if h : bw' ≠ bw then
+      none
+    else
+      let rhs' := rhs.cast (by simp at h; exact h)
+      return (#[.int bw (lhs + rhs')], .continue)
```
Comment (math-fehr) [inline Veir/Interpreter.lean:98]: Should we have a `cast?` for these kind of operations?
This would look like
```
let rhs' <- rhs.cast? bw
```
And make this much nicer I feel

**Review by math-fehr — APPROVED** [review]
The design looks good to me, but I feel this PR really should have been split into 5-6 sub-PRs.
I would have probably split it into:
* A PR for `llvm.constant` properties
* A PR for the `PoisonOr` data structure
* A PR per llvm operation, but I would understand one PR for all of them

File: Veir/Interpreter.lean (hunk 29 above)
Comment (tobiasgrosser) [reply Veir/Interpreter.lean:98]: That's a great idea. How would `cast?` be defined? Taking default arguments to grind?

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 26 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean:48]: @alexkeizer can you help here?

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 23 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean]: @alexkeizer, can you help here?

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 25 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean:80]: I have no experience with grind, so was thinking to do this in a separate PR.

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 27 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean:130]: I have no experience with grind, so was thinking to do this in a separate PR.

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 28 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean]: I have no experience with grind, so was thinking to do this in a separate PR.

File: Veir/Interpreter.lean (hunk 29 above)
Comment (math-fehr) [reply Veir/Interpreter.lean:98]: Oh nevermind, I think it is not actually possible to do this at the `Int` level.
This is probably something that we should do at the interpreter level, but then let's not scope creep this PR

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 25 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean:80]: Done.

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 28 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean]: Done.

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean (hunk 4 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: I moved it into `Int/Basic.lean`

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean (hunk 5 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: Done.

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 27 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean:130]: Done.

File: Veir/Data/LLVM/Int_PoisonOr/Basic.lean (hunk 3 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/Int_PoisonOr/Basic.lean]: Removed.

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 23 above)
Comment (tobiasgrosser) [reply Veir/Data/LLVM/PoisonOr/Basic.lean]: Done.

**Review by luisacicolini — APPROVED** [review]
lgtm, thank you!

File: Veir/Data/LLVM/PoisonOr/Basic.lean (hunk 26 above)
Comment (alexkeizer) [reply Veir/Data/LLVM/PoisonOr/Basic.lean:48]: As per the explanation further down the file:
```
theorem bind_if_then_poison_eq_ite_bind (p : Prop) [Decidable p] (x : PoisonOr α) :
    (if p then poison else x : no_index _) >>= f = if p then poison else x >>= f := by
-- /---------------------------^^^^^^^^^^
-- NOTE: the if-then-else has an implicit type argument, which will be `PoisonOr α`,
-- that is normally indexed in the discr_tree. Since we want this rewrite to apply
-- when this type is, say, LLVM.IntW, we ensure it is not indexed, using `no_index`
```

Comment (alexkeizer) [reply Veir/Data/LLVM/PoisonOr/Basic.lean:48]: Although, this stems from the desire to expose that, e.g., `IntW` is a PoisonOr and have the rewrites just work. In the age of LLMs, just re-exporting the PoisonOr lemmas with a statement that talks about IntW directly might not be so bad, and would remove the need for these no_index shenanigans
